US05972937
2-[2-(Dimethylamino)ethyl]aniline (D33)
The title compound was prepared from 2-nitrophenylacetic acid by conversion to the N,N-dimethylamide, hydrogenation then reduction with lithium aluminium hydride.

reactant | 2-nitrophenylacetic acid | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
reactant | N,N-dimethylamide | C[N-]C
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-[2-(Dimethylamino)ethyl]aniline | CN(CCC1=C(N)C=CC=C1)C | C10H16N2
